US04704227
As described in Example 9 4.44 gms. of 3-fluoro-4-(5-pentyl-1,3-dioxan-2-yl)-benzoic acid are converted by SOCl2 into the acid chloride. After removing excess SOCl2 the residue obtained is added to aqueous ammonia and stirred for 4 hours at 20° C. The precipitated acid amide is filtrated by suction and dried. For conversion into the nitrile it is dissolved in 50 ml of pyridine and 10 ml of POCl3, then stirred at 20° C. for 20 hours and evaporated. Thus 3-fluoro-4-(5-pentyl-1,3-dioxan-2-yl)-benzonitrile is obtained.

reactant | 3-fluoro-4-(5-pentyl-1,3-dioxan-2-yl)-benzoic acid | FC=1C=C(C(=O)O)C=CC1C1OCC(CO1)CCCCC | C16H21FO4
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
product | 3-fluoro-4-(5-pentyl-1,3-dioxan-2-yl)-benzonitrile | FC=1C=C(C#N)C=CC1C1OCC(CO1)CCCCC | C16H20FNO2
